US07884234B2
(2) Preparation of 4-amino-4′-(trifluoromethoxy)biphenyl
A mixture of 4-nitro-4′-(trifluoromethoxy)biphenyl (6.41 g, 22.6 mmol), 10% platinum-activated charcoal (150 mg) and methanol (50 ml) was stirred for 16 hours under hydrogen atmosphere. The reaction mixture was filtered through celite. The filtrate was concentrated under reduced pressure to give the title compound (5.48 g, 96%) as a white solid.

reactant | 4-nitro-4′-(trifluoromethoxy)biphenyl | 22.6 mmol, 6.41 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F | C13H8F3NO3
catalyst | platinum | 150 mg | [Pt] | Pt
solvent | methanol | 50 ml | CO | CH4O
product | 4-amino-4′-(trifluoromethoxy)biphenyl | 5.48 g, 96% | NC1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F | C13H10F3NO
